US08835634B2
4.2 g (22.3 mM) of 1-ethyl-3-methyl-quinoxalin-2(1H)-one, 3.97 g (22.3 mM) of N-bromosuccinimide and 53.3 mg of benzoylperoxide in 220 ml of carbon tetrachloride were refluxed for 4 h. The reaction mixture was filtered and the solvent was removed under vacuum. The residue was further purified by silica gel column chromatography, using dichloromethane/cyclohexane (70/30) as eluant to give a solid, which was taken up in methylterbutyloxide. After filtration, 2.4 g of 3-(bromomethyl)-1-ethyl-quinoxalin-2(1H)-one were obtained as a tan solid. Yield: 40.3%.

reactant | 1-ethyl-3-methyl-quinoxalin-2(1H)-one | 22.3 mM, 4.2 g | C(C)N1C(C(=NC2=CC=CC=C12)C)=O | C11H12N2O
reactant | N-bromosuccinimide | 22.3 mM, 3.97 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 220 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylterbutyloxide | COC(C)(C)C | C5H12O
catalyst | benzoylperoxide | 53.3 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-(bromomethyl)-1-ethyl-quinoxalin-2(1H)-one | 2.4 g, Yield: 40.3% | BrCC=1C(N(C2=CC=CC=C2N1)CC)=O | C11H11BrN2O
